US04002640
2.37 G. 1-acetamido-2-nitro-4-thiocyanatobenzene in 10 ml. dimethylformamide under nitrogen is treated with 0.38 g. sodium borohydride at 20°-25° C. After 1 hour 2.4 ml. benzylbromide is added, the mixture left for 2 hours, then diluted with water, filtered, washed with cyclohexane, recrystallized from methanol yielding 1-acetamido2-nitro-4-benzylthiobenzene.

reactant | 1-acetamido-2-nitro-4-thiocyanatobenzene | C(C)(=O)NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C9H7N3O3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | benzylbromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | O | H2O
product | 1-acetamido2-nitro-4-benzylthiobenzene | C(C)(=O)NC1=C(C=C(C=C1)SCC1=CC=CC=C1)[N+](=O)[O-] | C15H14N2O3S
